US05994378
To a solution of 2-{2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxy]methyl}-4-methoxyphenoxy}propanoic acid (1.57 g) and 1-hydroxybenzotriazole (0.439 g) in dimethylformamide (20 ml) was added 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride (0.63 g) at room temperature. The solution was stirred for an hour at the same temperature and was ice-cooled. Then concentrated solution of ammonia (1.1 ml) was added into the solution and the resulting mixture was stirred further for an hour. The mixture was diluted with water and was extracted with ethyl acetate. The organic layer was separated and was washed successively with sodium hydrogen carbonate solution and brine, and was dried over magnesium sulfate. After concentration, the residue (1.50 g) was crystallized with diisopropyl ether, filtered, and dried under reduced pressure to give 2-{2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxy]methyl}-6-methoxyphenoxy}propionamide (1.37 g).

reactant | 2-{2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxy]methyl}-4-methoxyphenoxy}propanoic acid | 1.57 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(OC(C(=O)O)C)C=CC(=C2)OC | C26H27NO6S
reactant | 1-hydroxybenzotriazole | 0.439 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | 0.63 g | Cl.C(C)N=C=NCCCN(C)C
reactant | ammonia | 1.1 ml | N | H3N
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-{2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxy]methyl}-6-methoxyphenoxy}propionamide | 1.37 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(OC(C(=O)N)C)C(=CC=C2)OC | C26H28N2O5S
